.subckt or node_a node_b node_out vdd gnd

Mp1 node_x node_a vdd vdd CMOSP W={wp1} L={lp1}
 + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
Mp2 node_y node_b node_x vdd CMOSP W={wp2} L={lp2}
 + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}
Mp3 node_out node_y vdd vdd CMOSP W={wp3} L={lp3}
 + AS = {5*wp3*LAMBDA} PS = {10*LAMBDA + 2*wp3} AD = {5*wp3*LAMBDA} PD = {10*LAMBDA + 2*wp3}
Mn1 node_y node_a gnd gnd CMOSN W={wn1} L={ln1}
 + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
Mn2 node_y node_b gnd gnd CMOSN W={wn2} L={ln2}
 + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
Mn3 node_out node_y gnd gnd CMOSN W={wn3} L={ln3}
 + AS = {5*wn3*LAMBDA} PS = {10*LAMBDA + 2*wn3} AD = {5*wn3*LAMBDA} PD = {10*LAMBDA + 2*wn3}
.ends or